US06252082B1
26.1. Methyl 6-methyl-2-oxo-4-phenoxy-3-[[(phenylmethoxy)carbonyl]amino]-1,2-dihydropyridine-1-acetate
2.5 g (7.9 mmol) of methyl 3-amino-6-methyl-2-oxo-4-phenoxy-1,2-dihydropyridine-1-acetate are treated with 1.7 ml (11.9 mmol) of phenylmethyl chloroformate under the conditions of Example 3.

reactant | methyl 3-amino-6-methyl-2-oxo-4-phenoxy-1,2-dihydropyridine-1-acetate | 7.9 mmol, 2.5 g | NC=1C(N(C(=CC1OC1=CC=CC=C1)C)CC(=O)OC)=O | C15H16N2O4
reactant | phenylmethyl chloroformate | 11.9 mmol, 1.7 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | Methyl 6-methyl-2-oxo-4-phenoxy-3-[[(phenylmethoxy)carbonyl]amino]-1,2-dihydropyridine-1-acetate | CC1=CC(=C(C(N1CC(=O)OC)=O)NC(=O)OCC1=CC=CC=C1)OC1=CC=CC=C1 | C23H22N2O6
